US04963566
To a solution of 8-(5-methoxy-2-benzimidazolyl)thiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline (0.80 g) in dichloromethane (30 ml) was added a solution of m-chloroperbenzoic acid (80%, 0.51 g) in dichloromethane (10 ml) by use of a pipet at -60° C. The mixture was stirred for 30 minutes at the same temperature. Aqueous sodium carbonate was added to the reaction mixture and the mixture was extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off. The resulting residue was purified by silica gel column chromatography [eluent:ethyl acetate-n-hexane (2:3)] and recrystallized from ethyl acetate to give 8-(5-methoxy-2-benzimidazolyl)sulfinylmethyl-1-methyl-1,2,3,4-tetrahydroquinoline (0.38 g).

reactant | 8-(5-methoxy-2-benzimidazolyl)thiomethyl-1-methyl-1,2,3,4-tetrahydroquinoline | 0.80 g | COC1=CC2=C(N=C(N2)SCC=2C=CC=C3CCCN(C23)C)C=C1 | C19H21N3OS
reactant | m-chloroperbenzoic acid | 0.51 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 8-(5-methoxy-2-benzimidazolyl)sulfinylmethyl-1-methyl-1,2,3,4-tetrahydroquinoline | 0.38 g | COC1=CC2=C(N=C(N2)S(=O)CC=2C=CC=C3CCCN(C23)C)C=C1 | C19H21N3O2S
